US06046192
(2R)-2-(4-Benzyloxyphenyl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide (605 mg) was dissolved in tetrahydrofuran (7.5 ml), and 2M borane-dimethyl-sulfide complex in tetrahydrofuran (2.25 ml) was added to the solution at room temperature with stirring. After the mixture was heated under reflux for 3 hours, a solution of triethanolamine (1.12 g) in tetrahydrofuran (2.5 ml) was added to the reaction mixture and the mixture was heated under reflux for 15 hours. After cooling, water was poured into the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Recrystallization of the residue from ethyl acetate gave (1R)-1-(4-benzyloxyphenyl)-2-[((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)-amino]ethanol (350 mg) having a melting point of 132-134° C.

reactant | (2R)-2-(4-Benzyloxyphenyl)-2-hydroxy-N-((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | 605 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H](C(=O)N[C@@H]1CC2=CC(=CC=C2CC1)O)O | C25H25NO4
reactant | triethanolamine | 1.12 g | N(CCO)(CCO)CCO | C6H15NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | (1R)-1-(4-benzyloxyphenyl)-2-[((2S)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)-amino]ethanol | 350 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H](CN[C@@H]1CC2=CC(=CC=C2CC1)O)O | C25H27NO3
